US07074817B2
Ethyl [1-benzyl-5-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetate
Ethyl [1-benzyl-5-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetate was prepared from 1-benzyl-5-(3-chloro-4-fluorophenyl)-1H-indole (0.705 g, 2.10 mmol), oxalyl chloride (0.73 mL, 8.4 mmol), and ethanol (6 mL) according to the procedure described in Step 3 of Example 1. Purification by flash chromatography (Biotage apparatus) using 5-10% ethyl acetate in hexane as an eluant afforded the title compound as a yellow solid (0.616 g, 67%), mp: 148-149° C. Mass spectrum (+APCI, [M+H]+) m/z 436; 1HNMR (400 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.4 (d, 1H, J=2.0 Hz), 7.85 (dd, 1H, J=7.1 Hz and 2.4 Hz), 7.6-7.7 (m, 3H), 7.5 (t, 1H, J=8.9 Hz), 7.25-7.35 (m, 5H), 5.65 (s, 2H), 4.35 (q, 2H, J=7.1 Hz), and 1.35 ppm (t, 3H, J=7.1 Hz).

reactant | 1-benzyl-5-(3-chloro-4-fluorophenyl)-1H-indole | 2.10 mmol, 0.705 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC(=C(C=C1)F)Cl | C21H15ClFN
reactant | oxalyl chloride | 8.4 mmol, 0.73 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 6 mL | C(C)O | C2H6O
product | Ethyl [1-benzyl-5-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetate | 0.616 g, 67% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=C(C=C1)F)Cl)C(C(=O)OCC)=O | C25H19ClFNO3
